US05719151
Synthesis of 3-ureidobenzamide (Compound 8)
Sodium cyanate (1.3 gm, 20 mMole) in 9.0 ml or water was added over a 15 minute period to a solution of 3-aminobenzamide (1.36 gm, 10 mMole) in acetic acid at 35° C. The mixture was stirred for a further 15 minutes during which time a white precipitate formed. This was filtered off, washed with cold water and crystallized from 25% ethanol to give 1.4 gm (78%) of shiny crystals. m.p. >300° C.

reactant | Sodium cyanate | 20 mMole, 1.3 gm | [O-]C#N.[Na+]
reactant | water | O | H2O
reactant | 3-aminobenzamide | 10 mMole, 1.36 gm | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-ureidobenzamide | 1.4 gm, 78% | N(C(=O)N)C=1C=C(C(=O)N)C=CC1 | C8H9N3O2
